Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Soma / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Crohn's Flare
 
Major Surgical or Invasive Procedure:
Colonoscopy w/ biopsies on ___

 
History of Present Illness:
___ M with PMHx of Crohn's disease and anxiety who presents with 
worsening abdominal pain and bloody stools. 
He has been in remission since ___ and on no controller 
medication for Crohn's. Recently moved from ___ to 
start a business 3 weeks ago. Started having increasing 
cramping, bloating abdominal pain LLQ 10 days PTA, LLQ now also 
including RLQ and epigastrium. He took emergency Percocet with 
good effect. He started having bright red bloody output 4 days 
ago with diarrhea, having ___ BMs per day, loose stools to 
liquid output. He is now passing clots. He denies dizziness, LH 
or falls. He has decreased his oral intake. He does endorse 
chills and night sweats for the last 4 days.

His previous episodes have involved more pain and has had much 
more bleeding than current episode.

He gets his medical care in ___ and his GI doctor recently 
retired. He has established with a local Psychiatrist ___ 
___ for his anxiety. 

In the ED, initial VS were T 97.9, HR 116, BP 117/85, RR 18, 
SaO2 98% RA.  
Exam notable for tachycardia, CTAB, soft nontender abdomen 
without guarding or palpable masses, no peripheral edema, small 
ecchymosis on abdomen, rectal exam with red blood on glove and 
no obvious fissures 
Labs showed WBC 6.3, Hg 10.3, plts 359, normal chemistry panel, 
alk phos 150 otherwise normal LFTs, CRP >300 
Imaging showed colitis of the descending colon without evidence 
of complication.
Patient received Tylenol 1 gm and prednisone 60 mg.
Transfer VS were T 98.1, HR 102, BP 108/69, RR 18, SaO2 97% RA.  

Decision was made to admit to medicine for further management of 
Crohn's flare.  

On arrival to the floor, patient reports ___ LLQ > RLQ pain 
with cramping and urgency. He denies dizziness, LH, C/P, SOB, 
palpitations, cough, N/V, dysuria, hematuria, numbness, 
tingling, weakness, falls, dry or red eyes, joint pain/swelling 
or falls.

Patient seen and examined, agree with house officer admission 
note by Dr. ___ ___ with additions below.

___ year old Male with history of Crohns Disease who presents 
with abdominal pain and frank hematochezia. The patient has a 
history of Crohn's disease which has been in remission since 
___, followed by a gastroenterologist in ___ who 
recently retired and the patient moved here to ___. He 
reports that for the 10 days prior to admission he has had 
bloating, LLQ pain, cramps. He has been taking his previously 
prescribed Percocet for pain relief. 4 days prior to admission 
he also developed frank hematochezia.  He notes some chills and 
night sweats for these 4 days.

In the ED his initial vitals were 97.9, 116, 117/85, 18. 98%. He 
was started on prednisone and an abdominal CT was performed.
 
Past Medical History:
- Crohn's disease, has been in remission since ___
- anxiety
- tonsillectomy
- deviated septum repair

 
Social History:
___
Family History:
Mother: CAD, ___ Cancer
Father: ___, Rheumatoid Arthritis
 
Physical Exam:
ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, + Vomiting, + Diarrhea, + Abdominal Pain, - 
Constipation, + Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache

ADMISSION PHYSICAL EXAM
========================
VS - 98.1 123/78 98 18 96% RA
GENERAL: NAD  
HEENT: anicteric sclera, PERRL, EOMI, MOM, OP clear, no oral 
ulcers
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, ND, +BS, LLQ > epigastric TTP, no rebound or 
guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&O, CN II-XII intact, SILT, ___ BUE/BLE strength, gait 
not assessed
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
=========================
VSS: 98, 132/89, 97, 16, 95%RA
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: Mild LLQ/Epigastric TTP, - rebound, - guarding, ND, +BS, - 
CVAT
 EXT: - CCE
 NEURO: CAOx3, Non-Focal
 
Pertinent Results:
ADMISSION LABS
================
___ 10:15PM BLOOD WBC-6.3 RBC-3.46* Hgb-10.3* Hct-31.9* 
MCV-92 MCH-29.8 MCHC-32.3 RDW-13.7 RDWSD-46.5* Plt ___
___ 10:15PM BLOOD Neuts-59 Bands-4 ___ Monos-10 Eos-0 
Baso-1 ___ Myelos-0 AbsNeut-3.97 AbsLymp-1.64 
AbsMono-0.63 AbsEos-0.00* AbsBaso-0.06
___ 11:10PM BLOOD ___ PTT-28.1 ___
___ 10:15PM BLOOD Glucose-89 UreaN-8 Creat-0.7 Na-137 K-4.3 
Cl-101 HCO3-25 AnGap-15
___ 10:15PM BLOOD ALT-31 AST-39 AlkPhos-150* TotBili-0.5
___ 10:15PM BLOOD Lipase-27
___ 10:15PM BLOOD Albumin-3.1* Calcium-8.5 Phos-2.9 Mg-2.3
___ 10:15PM BLOOD CRP-GREATER TH

PERTINENT STUDIES
====================
Immunologic:
___ IgG 641 (REF ___, IgM 113 (REF 40-230)
___ ___ - pending
___ AMA - pending
___ SMA - pending

Hepatobiliary:
___ Alk Phos 151, ALT 40, AST 64, LDH 251, TotBili 0.4
___ Alk Phos 149, ALT 32, AST 30, LDH 197, TotBili 0.3
___ Alk Phos 135, ALT 31, AST 29, LDH 161, TotBili 0.2, GGT 
114
___ Alk Phos 150, ALT 31, AST 39, TotBili 0.5

Inflammatory: 
___ CRP 81.1
___ CRP 154.0
___ CRP 245.3
___ CRP >300

Infectious:
___ HIV - negative
___ Quantiferon gold - indeterminate
___ C. diff assay - positive for toxigenic C. difficile by
the Illumigene DNA amplification.       
___ HBsAg negative, HBsAb positive, HBcAb negative
___ HCV ab negative
___ Negative for Salmonella or Shigella, Campylobacter, 
Vibrio, Yersinia, O&P, Cryptosporidium/Giardia, Cyclospora, E. 
coli 015:H7
___ Microsporidia - pending 

Other:
___ Vitamin D - 38 (REF ___

Imaging:
___ CHEST RADIOGRAPH (PA & LAT)
Heart size is normal. Mediastinum is normal. Lungs are clear. 
There is no pleural effusion or pneumothorax. The patient is 
after cervical spine therapy. 

___ MR ENTEROGRAPHY 
1. Colitis of the distal transverse through proximal sigmoid 
colon, similar in extent and severity from CT on ___.  
No evidence of small bowel involvement. 
2. Right obturator internus and left gluteus maximus myositis of 
unclear  etiology. 

___ COLONOSCOPY
Severe disease with deep ulceration, friability, erythema, 
granularity and spontaneous hemorrhage in the continuous disease 
from 40-60cm and patchy disease from 60-70cm (biopsy)
Ulceration in the rectum
Normal mucosa in the cecum and terminal ileum
Otherwise normal colonoscopy to cecum and 10cm into terminal 
ileum

___ CT ABD & PELVIS WITH CONTRAST
Colitis of the descending colon, infectious or inflammatory. 
Clinical 
correlation is recommended.

Pathology: 
___ GASTROINTESTINAL MUCOSAL BIOPSY - Chronic severe colitis

DISCHARGE LABS
================
___ 07:40AM BLOOD WBC-8.1 RBC-3.92* Hgb-11.6* Hct-35.8* 
MCV-91 MCH-29.6 MCHC-32.4 RDW-13.5 RDWSD-45.4 Plt ___
___ 07:40AM BLOOD Glucose-82 UreaN-8 Creat-0.9 Na-141 K-4.1 
Cl-103 HCO___ AnGap-19
___ 07:40AM BLOOD ALT-40 AST-64* LD(LDH)-251* AlkPhos-151* 
TotBili-0.4
___ 07:40AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.3
___ 07:40AM BLOOD CRP-81.1*
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of Crohn's 
disease vs. ulcerative colitis who presented with worsening 
abdominal pain and bloody diarrhea consistent with an 
exacerbation of inflammatory bowel disease as well as 
clostridium difficile colitis. He improved greatly with 
antibiotic therapy and was discharged on PO vancomycin and 
flagyl. He was also discharged on a mesalamine regimen as well 
as a prednisone taper.

# Ulcerative Colitis, Clostridium difficile infection: Patient 
presented with abdominal pain and bloody diarrhea c/w patient's 
history of IBD (unclear if UC vs. Crohn's), currently improving. 
UC per OSH records. Colonoscopy ___ suggests severe Crohn's 
disease; MRE ___ shows no small bowel involvement. He was 
started on mesalamine and prednisone taper, declined biologic 
therapy at this time. He will follow up as an outpatient with 
GI.

# Possible biliary tree obstruction, concern for primary 
sclerosing cholangitis: Alk Phos 135 on admission, 149 on ___ 
GGT elevated (114 on ___. IgG slightly low. ___, AMA, SMA, 
5'nucleotidase were pending at time of discharge. ___ need MRCP 
as an outpatient given persistent elevation.

# Possible myositis: Asymmetric edema in R obturator internus 
and L gluteus maximus seen on MRI ___, suggestive of myositis. 
No symptoms. Likely IBD associated myositis which is being 
treated with prednisone taper as above. Consider further workup 
as outpatient if no resolution.

CHRONIC PROBLEMS
================
# Anxiety -Has a local psychiatrist (___). 
Continued home venlafaxine and alprazolam.

# Possible hypertrophic cardiomyopathy - Patient w/ S4 heart 
sound on exam, possibly related to ventricular hypertrophy ___ 
prior years of human growth hormone treatment. Would consider 
outpatient echo to further evaluate.

TRANSITIONAL ISSUES
=====================
# Prednisone taper started ___: 40mg x 2 weeks (___), 
35mg x 1 week, 30mg x 1 week, 25mg x 1 week, 20mg x 1 week, 15mg 
x 1 week, 10mg x 1 week, 5mg x 1 week.
# Patient started on mesalamine suppositories, enema, and PO
# Antibiotic course: PO Vancomycin (___) metronidazole 
(___)
# Patient with S4 on exam, prior exposure to growth hormone, 
would consider outpatient work up for hypertrophic 
cardiomyopathy
# Patient with 'Asymmetric edema in R obturator internus and L 
gluteus maximus' seen on MRI ___, suggestive of myositis, 
already on prednisone taper, consider further workup as 
outpatient
# Possible biliary tree obstruction: ___, AMA, SMA, 
5'nucleotidase were pending at time of discharge. ___ need MRCP 
as an outpatient given persistent elevation. GI was concerned 
about possible PSC.
# Patient has follow up with GI on ___

# CODE: full code 
# CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine 50 mg PO DAILY 
2. ALPRAZolam 1 mg PO TID:PRN anxiety 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin B Complex 1 CAP PO DAILY 
5. Curcumin (turmeric (bulk)) 400 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Mesalamine (Rectal) 1000 mg PR QAM 
RX *mesalamine [Canasa] 1,000 mg 1 suppository(s) rectally QAM 
Disp #*30 Suppository Refills:*0 
3.  Mesalamine ___ 1600 mg PO TID 
RX *mesalamine [Asacol HD] 800 mg 2 tablet(s) by mouth three 
times a day Disp #*180 Tablet Refills:*0 
4.  Mesalamine Enema 4 gm PR QHS 
RX *mesalamine [sfRowasa] 4 gram/60 mL 1 enema(s) rectally at 
bedtime Refills:*0 
5.  MetroNIDAZOLE 500 mg PO Q8H 
Start date ___. End date ___. 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*33 Tablet Refills:*0 
6.  PredniSONE 25 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 4 of 8 tapered doses
Tapered dose - DOWN  
7.  PredniSONE 20 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 5 of 8 tapered doses
Tapered dose - DOWN  
8.  PredniSONE 15 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 6 of 8 tapered doses
Tapered dose - DOWN  
9.  PredniSONE 10 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 7 of 8 tapered doses
Tapered dose - DOWN  
10.  PredniSONE 5 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 8 of 8 tapered doses
Tapered dose - DOWN  
11.  PredniSONE 40 mg PO DAILY Duration: 14 Doses 
Start ___, end ___. 
This is dose # 1 of 8 tapered doses
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*26 Tablet 
Refills:*0 
12.  PredniSONE 35 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 2 of 8 tapered doses
Tapered dose - DOWN  
13.  PredniSONE 30 mg PO DAILY Duration: 7 Doses 
Start ___, end ___. 
This is dose # 3 of 8 tapered doses
Tapered dose - DOWN  
14.  Vancomycin Oral Liquid ___ mg PO Q6H 
Start date ___. End Date ___. 
RX *vancomycin [Vancocin] 125 mg 1 capsule(s) by mouth every six 
(6) hours Disp #*48 Capsule Refills:*0 
15.  ALPRAZolam 1 mg PO TID:PRN anxiety  
16.  Curcumin (turmeric (bulk)) 400 mg PO DAILY  
17.  Multivitamins 1 TAB PO DAILY  
18.  Venlafaxine 50 mg PO DAILY  
19.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Clostridium difficile colitis
Inflammatory bowel disease exacerbation
Myositis

SECONDARY DIAGNOSIS
====================
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were having worsening 
bloody diarrhea and abdominal pain. You were found to have an 
infection in your colon (C.diff) as well as a flare of your 
inflammatory bowel disease. You were started on antibiotics to 
treat the infection and medications to suppress the inflammation 
in your bowel.

You will have follow up appointments with your primary care 
doctor and the gastroenterologists.

Please continue to take your medications as directed.

Please follow up with your doctors as directed.

It was a pleasure taking care of you!
Your ___ Team
 
Followup Instructions:
___